US05807859
To a very fine suspension of 0.4 g of 4-(10-methyl-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno-[1,2-e]pyrazin-10-yl)butyric acid in 20 ml of chloroform is added, at a temperature in the region of 20° C., 0.13 g of oxalyl chloride followed by a solution of 0.5 ml of dimethylformamide in 5 ml of chloroform, and the stirring is continued for 3 hours. 2 ml of a 5.6N solution of ammonia in methanol are then added and the stirring is continued for 18 hours. The reaction mixture is concentrated on a rotary evaporator and the evaporation residue is stirred for 2 hours with 30 ml of distilled water. The solid is filtered off and purified by chromatography on a column of silica (25 g), eluting under a pressure of 0.5 bar with a mixture of dichloromethane and methanol (9/1 by volume). 0.045 g of 4-(10-methyl-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-10-yl)butyramide is obtained in the form of a light-beige-coloured solid melting above 260° C. (1H NMR spectrum: (300 MHz; (CD3)2SO-d6 ; δ in ppm): 0.65 (mt, 2H: CH2); 1.53 (s, 3H: CH3); 1.80 (t, J=7.5 Hz, 2H: CH2CON); 2.10 and 2.28 (2 mts, 1H each: hetero-CH2); 6.58 and 7.10 (2 broad s, 1H each: CONH2); 7.27 and 7.33 (2 t, J=7.5 Hz, 1H each: H 7 and H 8); 7.42 and 7.92 (2 broad s, 1H each: H of the imidazole); 7.50 and 7.68 (2 broad d, J=7.5 Hz, 1H each: H 6 and H 8)).

reactant | 4-(10-methyl-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno-[1,2-e]pyrazin-10-yl)butyric acid | 0.4 g | CC1(C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O)CCCC(=O)O | C18H17N3O3
reactant | oxalyl chloride | 0.13 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
reactant | ammonia | N | H3N
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | CO | CH4O
product | 4-(10-methyl-4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazin-10-yl)butyramide | 0.045 g | CC1(C=2C=CC=CC2C=2NC(C=3N(C21)C=CN3)=O)CCCC(=O)N | C18H18N4O2
